US06864265B2
To a stirred solution of 2,3-lutidine (4.8363 g, 45.13 mmol) in glacial acetic acid (30 mL) at room temperature was added 30% H2O2 (4.6 mL) and the resultant solution was heated to 70° C. After 6 hours, the reaction mixture was cooled to room temperature, additional H2O2 (4.6 mL) was added, and the solution was heated at 70° C. overnight. The reaction mixture was allowed to cool to room temperature and then concentrated under reduced pressure. The residue was dissolved in CHCl3 (100 mL) and treated with solid Na2CO3 (14.12 g). After 1 hour, the supernatant was decanted and the residue was washed with warm CHCl3 (3×50 mL). The combined. supernatants were filtered and concentrated to provide 4.6951 g as a yellow solid. The solid was dissolved in acetic anhydride (38 mL) and heated at 90° C. overnight. The mixture was cooled to room temperature and concentrated and the crude product was filtered through a silica plug (33 g silica, ethyl acetate) to give 6.13 g of 2-acetoxymethyl-3-methyl-pyridine as an orange oil.

reactant | 2,3-lutidine | 45.13 mmol, 4.8363 g | N1=C(C(=CC=C1)C)C | C7H9N
reactant | H2O2 | 4.6 mL | OO | H2O2
reactant | H2O2 | 4.6 mL | OO | H2O2
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 38 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetoxymethyl-3-methyl-pyridine | 6.13 g | C(C)(=O)OCC1=NC=CC=C1C | C9H11NO2
